US07521449B2
A) 1-Benzyl-4-(3-fluorophenyl)piperid-4-ol
To a suspension of 5.86 g of magnesium in 25 ml of THF is slowly added a solution of 42.16 g of 1-bromo-3-fluorobenzene in 100 ml of THF so as to reach and then maintain reflux of the THF, and the mixture is left at reflux for 1 hour with stirring. After cooling to rt, a solution of 38 g of 1-benzyl-4-piperidinone in 175 ml of THF is then added dropwise and the mixture is refluxed for 1 hour. After cooling to rt, the reaction mixture is poured into ice and extracted with EtOAc, the organic phase is washed with water and dried over Na2SO4, and the solvent is evaporated off under vacuum. 38 g of the expected product are obtained after crystallization from cyclohexane.

reactant | magnesium | 5.86 g | [Mg] | Mg
reactant | 1-bromo-3-fluorobenzene | 42.16 g | BrC1=CC(=CC=C1)F | C6H4BrF
reactant | 1-benzyl-4-piperidinone | 38 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 175 ml | C1CCOC1 | C4H8O
product | 1-Benzyl-4-(3-fluorophenyl)piperid-4-ol | 38 g | C(C1=CC=CC=C1)N1CCC(CC1)(O)C1=CC(=CC=C1)F | C18H20FNO
